US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 2-methylphenylboronic acid (20.4 mg, 0.15 mmol) gave 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-o-tolyl-thiazole-5-carboxylic acid (22.5 mg, 57%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.43 (br.s., 1 H); 8.82 (s, 1 H); 7.68 (s, 1 H); 7.41 (d, 1 H); 7.40 (s, 1 H); 7.31-7.39 (m, 2 H); 7.27 (td, 1 H); 3.85 (s, 3 H); 3.81 (s, 3 H); 2.29 (s, 3 H). MS m/z 396 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 2-methylphenylboronic acid | 0.15 mmol, 20.4 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-o-tolyl-thiazole-5-carboxylic acid | 22.5 mg, 57% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=C(C=CC=C2)C)C(=O)O)C=C1OC | C20H17N3O4S
